* ================================================================
* VibroSense-1 — Full-Chain Top-Level Netlist
* Analog ML Bearing Fault Classifier on SKY130A
* ================================================================
*
* Signal chain:
*   VIN → PGA(16x) → 5×BPF → 5×Envelope → [RMS, Crest] → Classifier → Class Output
*
* Strategy:
*   - Real transistor-level: PGA, BPFs, Envelopes, RMS/Crest
*   - Behavioral: Classifier (VCVS-based MAC), Digital wrapper
*   - Ideal: Bias sources (decouple bias debugging from chain)
*
* Simulation: ngspice -b -o results/sim.log -r results/sim.raw this_file.spice
* ================================================================

* --- PDK (use local minimal library that works with all blocks) ---
.lib "../../05_rms_crest/sky130.lib.spice" tt
.include "../../05_rms_crest/sky130_pdk_fixup.spice"

* --- Options for convergence ---
.option method=gear
.option reltol=1e-3
.option abstol=1e-12
.option vntol=1e-6
.option gmin=1e-12
.option itl1=500
.option itl2=200
.option itl4=100
* NOTE: .option scale=1e-6 REMOVED because blocks mix unit conventions
* Blocks 01, 03, 05 use explicit 'u' suffix (W=5u)
* Blocks 02, 04 use bare microns (w=0.42) — these need adapted copies

* ================================================================
* BLOCK SUBCIRCUIT INCLUDES
* ================================================================

* OTA used by filters (has explicit u units — no scale needed)
.include ../../01_ota/ota_foldcasc.spice

* OTA used by PGA and envelope (unit-fixed copy)
.include ota_pga_v2_fixed.spice

* Behavioral OTA for PGA
.include ota_behavioral.spice

* PGA (unit-fixed copy — bare microns converted to explicit u)
.include pga_fixed.spice

* Filter bank (real transistor-level, has explicit u units)
.include ../../03_filters/pseudo_res.spice
.include ../../03_filters/bpf_ch1_real.spice
.include ../../03_filters/bpf_ch2_real.spice
.include ../../03_filters/bpf_ch3_real.spice
.include ../../03_filters/bpf_ch4_real.spice
.include ../../03_filters/bpf_ch5_real.spice

* Envelope detector (unit-fixed copy)
.include envelope_det_fixed.spice

* RMS and Crest factor (real transistor-level)
.include ../../05_rms_crest/design.cir

* Classifier (behavioral VCVS model)
.include classifier_behavioral.spice

* Digital wrapper (behavioral PWL clocks)
.include digital_wrapper.spice

* ================================================================
* POWER SUPPLY
* ================================================================
Vdd vdd gnd 1.8
Vss vss gnd 0

* Per-block supply for power measurement (0-ohm sense resistors)
V_vdd_pga vdd vdd_pga DC 0
V_vdd_bpf1 vdd vdd_bpf1 DC 0
V_vdd_bpf2 vdd vdd_bpf2 DC 0
V_vdd_bpf3 vdd vdd_bpf3 DC 0
V_vdd_bpf4 vdd vdd_bpf4 DC 0
V_vdd_bpf5 vdd vdd_bpf5 DC 0
V_vdd_env1 vdd vdd_env1 DC 0
V_vdd_env2 vdd vdd_env2 DC 0
V_vdd_env3 vdd vdd_env3 DC 0
V_vdd_env4 vdd vdd_env4 DC 0
V_vdd_env5 vdd vdd_env5 DC 0
V_vdd_rms vdd vdd_rms DC 0
V_vdd_class vdd vdd_class DC 0

* ================================================================
* IDEAL BIAS SOURCES
* ================================================================
* Common-mode voltage (mid-supply)
Vvcm vcm gnd 0.9

* OTA bias voltages (for folded-cascode OTAs in BPFs)
* Values from filter channel tuning (bpf_ch1_real.spice headers)
* Channels 1-3 share bias at Iref=200nA
Vvbn vbn gnd 0.5973
Vvbcn vbcn gnd 0.8273
Vvbp vbp gnd 0.81
Vvbcp vbcp gnd 0.555
* Channel 4 per-channel bias (Iref=440nA for f0=7236 Hz)
Vvbn_ch4 vbn_ch4 gnd 0.6399
Vvbcn_ch4 vbcn_ch4 gnd 0.8699
Vvbp_ch4 vbp_ch4 gnd 0.745
Vvbcp_ch4 vbcp_ch4 gnd 0.49
* Channel 5 per-channel bias (Iref=870nA for f0=14639 Hz)
Vvbn_ch5 vbn_ch5 gnd 0.6914
Vvbcn_ch5 vbcn_ch5 gnd 0.9214
Vvbp_ch5 vbp_ch5 gnd 0.66
Vvbcp_ch5 vbcp_ch5 gnd 0.405

* Envelope detector bias (NMOS gate for rectifier OTAs and LPF OTA)
Vvbn_env vbn_env gnd 0.65
* vbn_lpf raised from 0.55V to 0.70V to increase LPF OTA tail current
* Higher current = faster slewing to reach VCM operating point
* fc = gm/(2*pi*C) increases proportionally, but settling improves dramatically
Vvbn_lpf vbn_lpf gnd 0.70

* RMS/Crest bias
Vvbn_rms vbn_rms gnd 0.65

* Reset (hold low — no reset during measurement)
Vreset reset gnd 0

* ================================================================
* INPUT STIMULUS
* (replaced by .include for actual test — placeholder sine here)
* ================================================================
* Default: 1 kHz sine wave, 100mVpp around 0.9V (VCM)
* Stimulus for test case: normal
.include ../../10_fullchain/stimuli/normal_stimulus.pwl

* ================================================================
* PGA (16x gain)
* Subcircuit: pga vin vout vcm vdd vss g1 g0
* g1=1, g0=0 -> gain setting 2 -> 16x
* ================================================================
Xpga vin vout_pga vcm vdd_pga vss g1 g0 pga

* ================================================================
* DIGITAL WRAPPER (provides gain control + FSM clocks)
* ================================================================
Xdigital phi_s phi_sb phi_e phi_eb phi_r g1 g0 irq_n class_valid vdd vss digital_wrapper

* ================================================================
* BAND-PASS FILTER BANK (5 channels, real transistor-level)
* Each: bpf_chN_real vinp vinn bp_outp bp_outn vdd vss vcm vbn vbcn vbp vbcp
* Drive differentially: vinp=vout_pga, vinn=vcm
* ================================================================
Xbpf1 vout_pga vcm vbpf1p vbpf1n vdd_bpf1 vss vcm vbn vbcn vbp vbcp bpf_ch1_real
Xbpf2 vout_pga vcm vbpf2p vbpf2n vdd_bpf2 vss vcm vbn vbcn vbp vbcp bpf_ch2_real
Xbpf3 vout_pga vcm vbpf3p vbpf3n vdd_bpf3 vss vcm vbn vbcn vbp vbcp bpf_ch3_real
Xbpf4 vout_pga vcm vbpf4p vbpf4n vdd_bpf4 vss vcm vbn_ch4 vbcn_ch4 vbp_ch4 vbcp_ch4 bpf_ch4_real
Xbpf5 vout_pga vcm vbpf5p vbpf5n vdd_bpf5 vss vcm vbn_ch5 vbcn_ch5 vbp_ch5 vbcp_ch5 bpf_ch5_real

* ================================================================
* ENVELOPE DETECTORS (5 instances, real transistor-level)
* Subcircuit: envelope_det vin vcm vout vdd gnd vbn vbn_lpf
* Use single-ended positive BPF output
* ================================================================
Xenv1 vbpf1p vcm venv1 vdd_env1 vss vbn_env vbn_lpf envelope_det
Xenv2 vbpf2p vcm venv2 vdd_env2 vss vbn_env vbn_lpf envelope_det
Xenv3 vbpf3p vcm venv3 vdd_env3 vss vbn_env vbn_lpf envelope_det
Xenv4 vbpf4p vcm venv4 vdd_env4 vss vbn_env vbn_lpf envelope_det
Xenv5 vbpf5p vcm venv5 vdd_env5 vss vbn_env vbn_lpf envelope_det

* ================================================================
* RMS and CREST FACTOR (real transistor-level)
* Subcircuit: rms_crest_top inp rms_out rms_ref peak_out vdd vss reset vbn vcm
* ================================================================
Xrms vout_pga rms_out rms_ref peak_out vdd_rms vss reset vbn_rms vcm rms_crest_top

* ================================================================
* CLASSIFIER (behavioral VCVS model)
* Inputs: 8 features = 5 envelopes + rms_out + peak_out + kurtosis_approx
* Kurtosis not available from analog — use RMS reference as proxy
* ================================================================
Xclass venv1 venv2 venv3 venv4 venv5 rms_out peak_out rms_ref
+ class_out class_valid_out vdd_class vss classifier_behavioral

* ================================================================
* MEASUREMENTS
* ================================================================

* Initial conditions: pre-charge envelope LPF caps to VCM (0.9V)
* Without this, UIC starts caps at 0V and the LPF OTA slew-limits
* for ~100ms to reach the 0.9V operating point, wasting simulation time
.ic v(venv1)=0.9 v(venv2)=0.9 v(venv3)=0.9 v(venv4)=0.9 v(venv5)=0.9

* Transient simulation
.tran 10u 200m UIC

* Save key nodes
.save v(vin) v(vout_pga) v(vcm)
.save v(vbpf1p) v(vbpf2p) v(vbpf3p) v(vbpf4p) v(vbpf5p)
.save v(vbpf1n) v(vbpf2n) v(vbpf3n) v(vbpf4n) v(vbpf5n)
.save v(venv1) v(venv2) v(venv3) v(venv4) v(venv5)
.save v(rms_out) v(rms_ref) v(peak_out)
.save v(class_out) v(class_valid) v(irq_n)
.save v(phi_s) v(phi_e) v(phi_r)
.save v(score0) v(score1) v(score2) v(score3)

* Power measurement: current through supply sense resistors
.save i(v_vdd_pga)
.save i(v_vdd_bpf1) i(v_vdd_bpf2) i(v_vdd_bpf3) i(v_vdd_bpf4) i(v_vdd_bpf5)
.save i(v_vdd_env1) i(v_vdd_env2) i(v_vdd_env3) i(v_vdd_env4) i(v_vdd_env5)
.save i(v_vdd_rms) i(v_vdd_class)
.save i(vdd)

.end
